# Qucs 25.1.2  /home/luis/QucsWorkspace/new.sch

SUBST:Subst1 er="9.8" h="1 mm" t="35 um" tand="2e-4" rho="0.022e-6" D="0.15e-6"
MLIN:MS1 _net0 _net1 Subst="Subst1" W="1 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MMBEND:MS2 _net2 _net1 Subst="Subst1" W="1 mm"
MLIN:MS3 _net2 _net3 Subst="Subst1" W="1 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MCORN:MS4 _net4 _net3 Subst="Subst1" W="1 mm"
MLIN:MS5 _net5 _net4 Subst="Subst1" W="1 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MMBEND:MS6 _net6 _net0 Subst="Subst1" W="1 mm"
MLIN:MS7 _net6 _net7 Subst="Subst1" W="1 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MCORN:MS8 _net5 _net7 Subst="Subst1" W="1 mm"
.SP:SP1 Type="lin" Start="1 MHz" Stop="100 MHz" Points="200" Noise="no" NoiseIP="1" NoiseOP="2" saveCVs="no" saveAll="no"
Pac:P1 _net1 gnd Num="1" Z="50 Ohm" P="0 dBm" f="1 MHz" Temp="26.85"
